US07595345B2
I. Preparation of (4-{1-Ethyl-1-[4-(2-hydroxy-2-isopropyl-3-methyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzoylamino)-acetic acid methyl ester
Using a procedure analogous to Example 1J, 4-{1-ethyl-1-[4-(2-hydroxy-2-isopropyl-3-methyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid (0.30 g, 0.68 mmol) and glycine methyl ester hydrochloride (0.094 g, 0.75 mmol) gives the titled compound (0.30 g, 0.59 mmol, 86%).

reactant | 4-{1-ethyl-1-[4-(2-hydroxy-2-isopropyl-3-methyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzoic acid | 0.68 mmol, 0.30 g | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)C)(C(C)C)O)C)C1=CC(=C(C(=O)O)C=C1)C | C28H40O4
reactant | glycine methyl ester hydrochloride | 0.75 mmol, 0.094 g | Cl.COC(CN)=O
product | (4-{1-Ethyl-1-[4-(2-hydroxy-2-isopropyl-3-methyl-butoxy)-3-methyl-phenyl]-propyl}-2-methyl-benzoylamino)-acetic acid methyl ester | 0.59 mmol, 0.30 g, 86% | COC(CNC(C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)OCC(C(C)C)(C(C)C)O)C)CC)C)=O)=O | C31H45NO5
